US04925867
Trifluoroacetic anhydride (30 ml, 44 g, 212 mmol) in dry dichlcromethane (100 ml) was added dropwise over 15 min to a stirred solution of dimethylsulphoxide (16 ml, 17.6 g, 259 mmol) in dry dichloromethane (500 ml) at -78° C. under nitrogen. After a further 10 min 1-benzyloxy-3-hydroxy-4-methylpyrrolidin-2-one (10 g, 45 mmol) in dichloromethane (80 ml) was added via cannula to the cloudy solution. After 30 min diisopropylethylamine (56 ml, 42 g, 330 mmol) was added dropwise over 5 min, and the reaction stirred for a further 35 min at -78° C. before being quenched at that temperature by the addition of methanol (20 ml). The mixture was then warmed to 0° C., washed with water (300 ml), and the water back extracted twice with dichloromethane. The combined organic layers were washed with brine, the brine extracted with dichloromethane, and the combined dichloromethane layers dried (Mg2SO4). After evaporation the product was purified by flash chromatography, eluting with dichloromethane: methanol (98:2 v/v) to give 1-benzyloxy-4-methylpyrrolidin-2,3-dione (7.8 g, 78%) as a white solid. In CDCl3 solution the ketone exists in its enol tautomeric form. 1H NMR (360 MHz, CDCl3) δ7.3-7.5 (5 H, m, Ph), 5.01 (2 H, s, OCH2), 3.61 (2 H, q, J=0.9 Hz, NCH2), 1.81 (3 H, t, J=0.9 Hz, CH3), m/z (CI, isobutane) 220 (M+ +H).

reactant | Trifluoroacetic anhydride | 212 mmol, 30 ml, 44 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethylsulphoxide | 259 mmol, 16 ml, 17.6 g | CS(=O)C | C2H6OS
reactant | 1-benzyloxy-3-hydroxy-4-methylpyrrolidin-2-one | 45 mmol, 10 g | C(C1=CC=CC=C1)ON1C(C(C(C1)C)O)=O | C12H15NO3
reactant | diisopropylethylamine | 330 mmol, 56 ml, 42 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-benzyloxy-4-methylpyrrolidin-2,3-dione | 7.8 g, 78% | C(C1=CC=CC=C1)ON1C(C(C(C1)C)=O)=O | C12H13NO3
